US07196104B2
Preparation BI: 2-(2-Methoxyphenyl)thiazole-4-carboxylic acid
To a stirred solution of ethyl 2-(2-methoxy-phenyl)thiazole-4-carboxylate (0.27 g, 1.03 mmol) in EtOH (10 mL) was added 1N NaOH (aq) (5 mL). The resulting mixture was heated to reflux for 2 h. The mixture was cooled to RT, acidified with 1N HCl (aq) and concentrated by rotary evaporation. The residue was extracted with CH2Cl2 (3×15 mL). The extracts were combined, dried over MgSO4, filtered and concentrated by rotary evaporation to afford the title compound as an off-white solid. EI-MS m/z 236 (M+H).

reactant | ethyl 2-(2-methoxy-phenyl)thiazole-4-carboxylate | 1.03 mmol, 0.27 g | COC1=C(C=CC=C1)C=1SC=C(N1)C(=O)OCC | C13H13NO3S
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-(2-Methoxyphenyl)thiazole-4-carboxylic acid | COC1=C(C=CC=C1)C=1SC=C(N1)C(=O)O | C11H9NO3S
